US07608627B2
A mixture of 1H-pyrrolo[2,3-c]pyridine-3-carboxaldehyde (100 mg, 0.68 mmol) and THF (6.8 mL) was cooled to −40° C. and phenylmagnesium chloride (0.68 mL, 1.36 mmol) was added. The reaction mixture was warmed to room temperature and refluxed for 1 h. The reaction mixture was cooled to room temperature and quenched with saturated NH4Cl and then water was added. The aqueous layer was extracted with EtOAc (1×), dried (MgSO4) and filtered, and the solvent was removed. The crude material was purified by Biotage chromatography (90:10 to 85:15 methylene chloride/methanol) to give phenyl(1H-pyrrolo[2,3-c]pyridin-3-yl)methanol as a yellow solid (65.5 mg, 43%): Rf 0.11 (90:10 methylene chloride/methanol); 1H NMR (300 MHz, CD3OD) (6.09 (1H, s), 7.25-7.27 (1H, m), 7.32-7.35 (3H, m), 7.46-7.48 (3H, m), 7.96-7.97 (1H, d, J=5.6 Hz), 8.64 (1H, s); ESI MS m/z 225 [C14H12N2O+H]+; Estimated Purity: >90% by 1H NMR analysis.

reactant | 1H-pyrrolo[2,3-c]pyridine-3-carboxaldehyde | 0.68 mmol, 100 mg | N1C=C(C=2C1=CN=CC2)C=O | C8H6N2O
reactant | phenylmagnesium chloride | 1.36 mmol, 0.68 mL | C1(=CC=CC=C1)[Mg]Cl
solvent | THF | 6.8 mL | C1CCOC1 | C4H8O
product | phenyl(1H-pyrrolo[2,3-c]pyridin-3-yl)methanol | 65.5 mg, 43% | C1(=CC=CC=C1)C(O)C1=CNC2=CN=CC=C21 | C14H12N2O
